US07456293B2
Step B: Preparation of ethyl 2-ethoxy-3-(4-{2-[2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)propanoate having following formula
Ethyl 3-[4-(2-bromoethoxy)phenyl]-2-ethoxypropanoate (371 mg, 1 mmol) was dissolved in DMF (5 ml) and K2CO3 (552 mg, 4 mmol) was added followed by 2-trifluoromethyl benzimidazole (204 mg, 1.1 mmol). The reaction mixture was heated to 60° C. for 17 hrs. After the completion of the reaction, water was added and the product was extracted with Et2O. The product was purified by column chromatography on silica gel using ethyl acetate and hexanes as solvent (333 mg, 70%).

reactant | Ethyl 3-[4-(2-bromoethoxy)phenyl]-2-ethoxypropanoate | 1 mmol, 371 mg | BrCCOC1=CC=C(C=C1)CC(C(=O)OCC)OCC | C15H21BrO4
reactant | K2CO3 | 4 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-trifluoromethyl benzimidazole | 1.1 mmol, 204 mg | FC(C=1NC2=C(N1)C=CC=C2)(F)F | C8H5F3N2
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ethyl 2-ethoxy-3-(4-{2-[2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)propanoate | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)OCCN1C(=NC2=C1C=CC=C2)C(F)(F)F | C23H25F3N2O4
